US04886822
3.0 g of diisopropyl-1-ethoxycarbonyl-1,4-dihydropyridine-4-phosphonate was dissolved in 50 ml of tetrahydrofuran. The solution was cooled to -78° C. with a dry ice-acetone freezing mixture. In a stream of nitrogen, 6.8 ml of a hexane solution of n-butyllithium was slowly added dropwise. A solution of 2.50 g of p-bromobenzyl bromide in 10 ml of tetrahydrofuran was added dropwise. The temperature of the solution was returned to room temperature, and the solution was stirred for 20 hours. The excess of n-butyllithium was decomposed with ammonium chloride, and the solvent was evaporated. The residue was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium hydrogen carbonate, a saturated aqueous solution of sodium thiosulfate and a saturated aqueous solution of sodium chloride in this order, and the solvent was evaporated. The residue was subjected to silica gel column chromatography. The column was eluted with a 1:9 mixture of acetone and benzene to give 2.76 g (yield 56.6%) of diisopropyl-4-(4-bromobenzyl)-1-ethoxycarbonyl-1,4-dihydropyridine-4-phosphonate as a brown oil.

reactant | diisopropyl-1-ethoxycarbonyl-1,4-dihydropyridine-4-phosphonate | 3.0 g | C(C)(C)OP(OC(C)C)(=O)C1C=CN(C=C1)C(=O)OCC | C14H24NO5P
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-bromobenzyl bromide | 2.50 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 6.8 ml | CCCCCC | C6H14
product | diisopropyl-4-(4-bromobenzyl)-1-ethoxycarbonyl-1,4-dihydropyridine-4-phosphonate | 2.76 g, yield 56.6% | C(C)(C)OP(OC(C)C)(=O)C1(C=CN(C=C1)C(=O)OCC)CC1=CC=C(C=C1)Br | C21H29BrNO5P
